US07842696B2
DIPEA (77.35 mg, 0.598 mmol) was added to a stirred solution of biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (70 mg, 0.16 mmol) in DMF (2 mL). HOBT (19.8 mg, 0.15 mmol) and EDCI.HCl (63.74 mg, 0.33 mmol) were then added. After 2 minutes 2-fluorobenzoic acid (18.6 mg, 0.133 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water and the product was precipitated and isolated by filtration to afford crude product, which was purified by column chromotography (using silica gel of 160-120 mesh and 50% EtOAc in hexane as eluent) to afford 25 mg (41.4% yield) of Biphenyl-4-carboxylicacid {2-[4-(2-fluoro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LC-MS purity: 94.8%, 1H NMR: (CDCl3) δ 7.9 (d, 2H), 7.6 (dd, 4H), 7.4 (m, 4H), 7.2 (s, 1H), 7.1 (t, 1H), 4.4 (dd, 2H), 3.8 (t, 2H), 3.6 (t, 4H), 3.4 (s, 2H).

reactant | DIPEA | 0.598 mmol, 77.35 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.16 mmol, 70 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | HOBT | 0.15 mmol, 19.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.33 mmol, 63.74 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-fluorobenzoic acid | 0.133 mmol, 18.6 mg | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Biphenyl-4-carboxylicacid {2-[4-(2-fluoro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 25 mg, 41.4% yield | FC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=CC=C1 | C26H24FN3O3
